US06833378B2
Benzyl-[3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-ethyl-amine
A mixture of 4-bromo-3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridine (250 mg, 0.78 mmol), benzylethylamine (127 mg, 0.937 mmol), Pd(OAc)2(3.6 mg, 0.0156 mmol), (S)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (BINAP) (9.7 mg, 0.0156 mmol), potassium t-butoxide (105 mg, 0.781 mmol) in 25 ml of toluene was heated at reflux for 2 hr. The mixture was cooled to rt, quenched with water and extracted with ethyl acetate. The organic layer was separated, dried (Na2SO4), filtered, and concentrated to give a brown oil. The crude material was purified through silica gel column chromatography to give the title compound. 1H NMR(CDCl3) d 7.2-7.4(m,5H), 6.86(s,2H), 6.41(s,1H), 4.23(s,2H), 3.07(q,2H), 2.31(s,3H), 2.29(s,3H), 2.16(s,3H), 2.06(s,6H), 1.05(t,3H) ppm.

reactant | 4-bromo-3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridine | 0.78 mmol, 250 mg | BrC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)C | C16H18BrNO
reactant | benzylethylamine | 0.937 mmol, 127 mg | C(C1=CC=CC=C1)CCN | C9H13N
reactant | (S)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.0156 mmol, 9.7 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | potassium t-butoxide | 0.781 mmol, 105 mg | CC(C)([O-])C.[K+]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.0156 mmol, 3.6 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Benzyl-[3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-ethyl-amine | C(C1=CC=CC=C1)N(CC)C1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)C | C25H30N2O
